Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bicycle accident
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old female who presents to ___ on ___ with a mild TBI. 

Patient had a bicycle accident while riding home from a bar and
flew over the handle bars. She hit her head and had LOC x1
minute. Head CT showed left side tSAH and she was transferred to
___ for further eval 

Mechanism of trauma: bicycle accident 
 
Past Medical History:
none per patient / OSH 
 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
ON ADMISSION
============
Physical Exam:

O:  BP:  136/69   HR: 71   RR: 17   O2 Sat: 98%

GCS at the scene: 15

GCS upon Neurosurgery Evaluation: 14 

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [x]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, NAD, drowsy 
HEENT: lacteration above right eye 
Neck: supple
Extrem: warm and well perfused

Neuro: 

Mental Status: drowsy, EO to voice 

Orientation: Oriented to person, ___, ___

Language: Speech is clear 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

ON DISCHARGE
============
Exam:

Opens eyes: [x ]spontaneous [ ]to voice [ ]to noxious

Orientation: [x ]Person [x ]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  ___ Bilat      

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x] Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[ ]Clonus [ ___ [ ]Sensation intact to light touch
[ ]Proprioception intact

Wound: Bilateral R>L periorbital ecchymosis, R eyebrow lac with
suture
          [x]Clean, dry, intact 
          [ ]Abnormal
[ ]Steris [ ]Suture [ ]Staples [ ]None

 
Pertinent Results:
Please see OMR for pertinent imaging & labs
 
Brief Hospital Course:
On ___, Ms. ___ was transferred to the ___ ED from OSH 
after fall of a bicycle with traumatic subarachnoid hemorrhage.  
At the time of evaluation in the ED, she was lethargic and 
slightly dysarthric with GCS 13. Over the course of her 
hospitalization, GSC and lethargy improved.  She had an episode 
of headache with nausea and vomiting on ___ STAT NCHCT was 
stable.  She remained neurologically intact.  Nausea resolved 
and she had adequate PO intake.  She was evaluated by ___ who 
recommended discharge home without services.  On ___, she was 
discharged home in stable condition.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Moderate  
2.  Artificial Tears Preserv. Free ___ DROP BOTH EYES QID  
3.  Docusate Sodium 100 mg PO BID  
4.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth Q6H PRN 
Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Traumatic Subarachnoid Hemorrhage
Right nasal bone fracture and deviation of the nasal septum 
Right forehead laceration
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Brain Hemorrhage without Surgery

Activity
 We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
 You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
 No driving while taking any narcotic or sedating medication. 
 If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
 No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
 Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
 You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
 You may have difficulty paying attention, concentrating, and 
remembering new information.
 Emotional and/or behavioral difficulties are common. 
 Feeling more tired, restlessness, irritability, and mood 
swings are also common.
 Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
 Headache is one of the most common symptom after a brain 
bleed. 
 Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
 Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
 There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
 Severe pain, swelling, redness or drainage from the incision 
site. 
 Fever greater than 101.5 degrees Fahrenheit
 Nausea and/or vomiting
 Extreme sleepiness and not being able to stay awake
 Severe headaches not relieved by pain relievers
 Seizures
 Any new problems with your vision or ability to speak
 Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
 Sudden numbness or weakness in the face, arm, or leg
 Sudden confusion or trouble speaking or understanding
 Sudden trouble walking, dizziness, or loss of balance or 
coordination
 Sudden severe headaches with no known reason

 
Followup Instructions:
___